US04432972
(4-Phenylbutyl)phosphinic acid, phenylmethyl ester is reacted with L-phenylalanyl-L-leucine, phenylmethyl ester, hydrochloride according to the procedure of Example 1(c) to yield N-[N-[phenyl-methoxy(4-phenylbutyl)phosphinyl]-L-phenylalanyl]-L-leucine, phenylmethyl ester.

reactant | (4-Phenylbutyl)phosphinic acid, phenylmethyl ester | C1(=CC=CC=C1)CCCCP(OCC1=CC=CC=C1)=O | C17H21O2P
reactant | L-phenylalanyl-L-leucine, phenylmethyl ester, hydrochloride | Cl.N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1
product | N-[N-[phenyl-methoxy(4-phenylbutyl)phosphinyl]-L-phenylalanyl]-L-leucine, phenylmethyl ester | C1(=CC=CC=C1)COP(=O)(N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)CCCCC1=CC=CC=C1 | C39H47N2O5P
